US07517910B2
3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid
Methyl 3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoate (0.17 g, 0.36 mmol) was dissolved in a mixed solution of methanol (4 mL) and tetrahydrofuran (8 mL), and 1 N aqueous sodium hydroxide solution (0.71 mL) was added with stirring at room temperature. The mixture was stirred at the same temperature for 2 hr. After completion of the reaction, the reaction mixture was diluted with ethyl acetate, and the mixture washed successively with 5% aqueous potassium hydrogensulfate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from hexane/ethyl acetate=4/1 to give the title compound (0.15 g, yield 88%) as colorless crystals. MS (APCI−): 460 (M−H), 1H NMR (CDCl3) δ: 2.63 (2H, t, J=7.8 Hz), 2.89 (2H, t, J=7.8 Hz), 4.97 (2H, s), 5.36 (2H, s), 6.65 (1H, s), 6.87 (2H, d, J=8.7 Hz), 7.03 (2H, d, J=8.1 Hz), 7.07-7.19 (5H, m), 7.28-7.47 (7H, m), 7.67 (1H, m).

reactant | Methyl 3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoate | 0.36 mmol, 0.17 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C32H29NO3
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 N, 0.71 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid | 0.15 g, yield 88% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C31H27NO3
